US07005432B2
3-(3-Chloro-4-fluoro-phenyl)-5-methoxymethoxymethyl-pyridazine (0.06 g, 0.21 mmol) was dissolved in dioxane (2 ml) and treated with 1N HCl (0.2 ml, 0.2 mmol). The reaction mixture was refluxed for 1.5 hours then cooled to room temperature. Water and ethyl acetate were added. The aqueous layer was extracted twice with ethyl acetate. The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. The residue was chromatographed over silica gel (hexane-ethylacetate 1:1 then 2:8) to provide [6-(3-chloro-4-fluoro-phenyl)-pyridazin-4-yl]-methanol (13 mg, 26%) as a light yellow solid, MS: m/e=239.2 (M+H+).

reactant | 3-(3-Chloro-4-fluoro-phenyl)-5-methoxymethoxymethyl-pyridazine | 0.21 mmol, 0.06 g | ClC=1C=C(C=CC1F)C=1N=NC=C(C1)COCOC | C13H12ClFN2O2
reactant | HCl | 0.2 mmol, 1N, 0.2 ml | Cl | ClH
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | [6-(3-chloro-4-fluoro-phenyl)-pyridazin-4-yl]-methanol | 13 mg, 26% | ClC=1C=C(C=CC1F)C1=CC(=CN=N1)CO | C11H8ClFN2O
